US09259426B2
Synthesis of 2-acetamido-6-bromo-4-(1,2,4-triazolyl)-quinazoline
To a mixture of 2-acetamido-6-bromo-4-hydroxy-quinazoline (2.82 g, 10 mmol) and 1,2,4-triazole (6.9 g, 100 mmol) in acetonitrile (100 ml) was added diisopropylethylamine (3.5 ml, 30 mmol) and POCl3 (2.8 ml, 30 mmol). The mixture was stirred at room temperature for 12 hours. The precipitate was collected, washed with ethanol, diethylether, and dried over P2O5 in a vacuum dessicator to yield the title compound as yellow solid (3.3 g). The crude product was used in the following reaction without further purification and was characterized by its mass spectrum as follows: MS (m/z): 333 ([M+H]+, 100).

reactant | 2-acetamido-6-bromo-4-hydroxy-quinazoline | 10 mmol, 2.82 g | C(C)(=O)NC1=NC2=CC=C(C=C2C(=N1)O)Br | C10H8BrN3O2
reactant | 1,2,4-triazole | 100 mmol, 6.9 g | N1N=CN=C1 | C2H3N3
reactant | diisopropylethylamine | 30 mmol, 3.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | POCl3 | 30 mmol, 2.8 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 2-acetamido-6-bromo-4-(1,2,4-triazolyl)-quinazoline | 3.3 g | C(C)(=O)NC1=NC2=CC=C(C=C2C(=N1)C1=NNC=N1)Br | C12H9BrN6O
